US05679700
A solution of benzyl 2-((methoxyphosphinyl)methyl)-4-phenylbutanoate (4.02 g, 11.6 mmol) in methanol (20 mL) was cooled in an ice bath and 2.5N aqueous sodium hydroxide (5.1 mL. 12.8 mmol) was added over 10 min. The resulting solution was stirred at 0° C. for 45 min before being diluted with water (150 mL) and washed with a mixture of ether (75 mL) and hexane (25 mL). The aqueous layer was washed with hexane (75 mL), acidified by the addition of 2N aqueous hydrochloric acid (20 mL), and extracted with ethyl acetate (2×75 mL). The ethyl acetate layers were washed in succession with saturated aqueous sodium chloride (50 mL), dried (sodium sulfate), decanted, and evaporated. The residue was dried overnight under vacuum to give crude (±)-benzyl 2-((hydroxyphosphinyl)methyl)-4-phenylbutanoate as 3.67 g of colorless oil (95% yield).

reactant | benzyl 2-((methoxyphosphinyl)methyl)-4-phenylbutanoate | 11.6 mmol, 4.02 g | COP(=O)CC(C(=O)OCC1=CC=CC=C1)CCC1=CC=CC=C1 | C19H23O4P
reactant | sodium hydroxide | 12.8 mmol, 2.5N, 5.1 mL | [OH-].[Na+]
solvent | methanol | 20 mL | CO | CH4O
solvent | water | 150 mL | O | H2O
product | (±)-benzyl 2-((hydroxyphosphinyl)methyl)-4-phenylbutanoate | OP(=O)CC(C(=O)OCC1=CC=CC=C1)CCC1=CC=CC=C1 | C18H21O4P
